US08431569B2
Step 5. 1-{[(1R,2R,4R)-4-Hydroxy-2-methylcyclohexyl]amino}-7-(1-methyl-1H-pyrazol-4-yl)-5H-pyrido[4,3-b]indole-4-carboxamide
To a stirred solution of 1-{[(1R,2R,4R)-4-hydroxy-2-methylcyclohexyl]amino}-7-(1-methyl-1H-pyrazol-4-yl)-5H-pyrido[4,3-b]indole-4-carbonitrile (15 mg, 0.037 mmol) in DMSO (2 mL) were added hydrogen peroxide (30%, 0.038 mL, 0.38 mmol) and potassium carbonate (28 mg, 0.20 mmol). The reaction mixture was heated to 70° C. overnight, cooled to room temperature, filtered, and purified by prep-HPLC to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 8.42 (s, 1H); 8.07 (d, 1H); 7.99 (s, 1H); 7.88 (s, 1H); 7.77 (s, 1H); 7.48 (dd, 1H); 3.97 (m, 1H); 3.93 (s, 3H); 3.69 (m, 1H); 1.22-2.17 (series of m, 7H); 1.03 (d, 3H). LRMS (APCI) calc'd for (C23H26N6O2) [M+H]+, 419.2. found 419.1.

reactant | 1-{[(1R,2R,4R)-4-hydroxy-2-methylcyclohexyl]amino}-7-(1-methyl-1H-pyrazol-4-yl)-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.037 mmol, 15 mg | O[C@H]1C[C@H]([C@@H](CC1)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C=2C=NN(C2)C)C#N)C | C23H24N6O
reactant | hydrogen peroxide | 0.38 mmol, 0.038 mL | OO | H2O2
reactant | potassium carbonate | 0.20 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 1-{[(1R,2R,4R)-4-Hydroxy-2-methylcyclohexyl]amino}-7-(1-methyl-1H-pyrazol-4-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | O[C@H]1C[C@H]([C@@H](CC1)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C=2C=NN(C2)C)C(=O)N)C | C23H26N6O2
